US08809539B2
To a solution of benzylpiperidine-4,4-dicarboxylic acid diethyl ester (21.5 g, 0.067 mol) in ethanol (300 mL) is added 5% Pd/C (25 g, 50% wet). The reaction mixture is stirred under 40 psi pressure of hydrogen for 3 hrs, then filtered through a celite bed and the filtrate is concentrated to give a crude viscous liquid which is purified by column chromatography (silica gel 230-400 mesh, methanol:dichloromethane 10:90) to furnish piperidine-4,4-dicarboxylic acid diethyl ester as pale yellow liquid.

reactant | benzylpiperidine-4,4-dicarboxylic acid diethyl ester | 0.067 mol, 21.5 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCC | C18H25NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | Pd/C | 25 g | [Pd] | Pd
product | piperidine-4,4-dicarboxylic acid diethyl ester | C(C)OC(=O)C1(CCNCC1)C(=O)OCC | C11H19NO4
